US07572820B2
E. 4-Chloro-1-(2,2,2-trifluoroethyl)-2-(trifluoromethyl)-1H-benzimidazol-5-yl trifluoromethanesulfonate
A CH2Cl2 (20 mL) solution of 4-chloro-1-(2,2,2-trifluoroethyl)-2-(trifluoromethyl)-1H-benzimidazol-5-ol (0.103 g, 0.324 mmol) was treated with pyridine (0.038 g, 0.486 mmol). The cooled (0° C.) reaction mixture was then treated with triflic anhydride (0.100 g, 0.356 mmol) and the reaction was allowed to warm to rt. After stirring at rt for 60 min, the solvent was removed in vacuo. The resulting residue was then dissolved in EtOAc, washed with saturated aqueous NaHCO3 and brine, dried over Na2SO4, filtered, and concentrated. Purification (SiO2; EtOAc/hexanes) afforded the title compound (0.053 g): MS (ESI) m/z 451 (M+1).

reactant | 4-chloro-1-(2,2,2-trifluoroethyl)-2-(trifluoromethyl)-1H-benzimidazol-5-ol | 0.324 mmol, 0.103 g | ClC1=C(C=CC=2N(C(=NC21)C(F)(F)F)CC(F)(F)F)O | C10H5ClF6N2O
reactant | pyridine | 0.486 mmol, 0.038 g | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 0.356 mmol, 0.100 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-1-(2,2,2-trifluoroethyl)-2-(trifluoromethyl)-1H-benzimidazol-5-yl trifluoromethanesulfonate | 0.053 g | FC(S(=O)(=O)OC1=C(C2=C(N(C(=N2)C(F)(F)F)CC(F)(F)F)C=C1)Cl)(F)F | C11H4ClF9N2O3S
